US07776909B2
To a solution of 2-methyl-4-nitro phenylacetic acid methyl ester (10 mmol) in dry THF (20 mL) and methyl alcohol (20 mL), ammonium formate (0.1 mmol) and 10% Pd/C (0.5 g) have been added and the resulting mixture has been left stirring for 3 h, until complete disappearance of the starting reagent. The catalyst has been filtered off and the filtrate evaporated under vacuum to give 2-methyl-4-amino phenylacetic acid methyl ester as a waxy solid (9.22 mmol).

reactant | 2-methyl-4-nitro phenylacetic acid methyl ester | 10 mmol | COC(CC1=C(C=C(C=C1)[N+](=O)[O-])C)=O | C10H11NO4
reactant | ammonium formate | 0.1 mmol | C(=O)[O-].[NH4+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | methyl alcohol | 20 mL | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 2-methyl-4-amino phenylacetic acid methyl ester | COC(CC1=C(C=C(C=C1)N)C)=O | C10H13NO2
